US07812022B2
Step D: N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide
To an oven-dried flask under N2 was added 2,4-dichloropyrimidine (520 mg, 3.49 mmol), anhydrous degassed THF (100 mL), dichlorobis(triphenylphosphine)-palladium(II) (62 mg, 0.09 mmol), copper(I) iodide (10 mg, 0.05 mmol), and triethylamine (718 mg, 7.10 mmol). After heating the reaction at 60° C. for 30 min, N-(5-ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide (410 mg, 1.77 mmol) was added dropwise as a solution in THF (10 mL) and the resulting mixture was allowed to heat overnight. The crude reaction mixture was adsorbed to silica gel and purified by column chromatography (5-50% EtOAc in hexanes) to afford the desired product (300 mg, 49%) as an off white solid. ESIMS (M+H)+=344.

reactant | 2,4-dichloropyrimidine | 3.49 mmol, 520 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | triethylamine | 7.10 mmol, 718 mg | C(C)N(CC)CC | C6H15N
reactant | N-(5-ethynyl-2-fluorophenyl)-2,2,2-trifluoroacetamide | 1.77 mmol, 410 mg | C(#C)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C10H5F4NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.09 mmol, 62 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 300 mg, 49% | ClC1=NC=CC(=N1)C#CC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C14H6ClF4N3O
